US09145414B2
Acetone (1.0 mL) and tert-butoxy potassium (2.7 g) were added to a solution of 3-nitroaniline (1.38 g) in dimethylsulfoxide (20 ml), and the reaction solution was stirred at room temperature for 3 hours. The reaction solution was diluted with ethyl acetate, and washed successively with an aqueous ammonium chloride solution and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The residue was purified by column chromatography on silica gel (developing solvent:hexane-ethyl acetate) to obtain 2-methyl-4-nitro-1H-indole.

reactant | Acetone | 1.0 mL | CC(=O)C | C3H6O
reactant | tert-butoxy potassium | 2.7 g | C(C)(C)(C)O[K]
reactant | 3-nitroaniline | 1.38 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-4-nitro-1H-indole | CC=1NC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H8N2O2
